US08445684B2
To a solution of 1-(tert-butoxycarbonyl)-4-(2-iodoethyl)piperidine (339 mg, 1.0 mmol) and phenol (188 mg, 1.0 mmol) in DMF (5 mL) was added anhydrous K2CO3 (828 mg, 6.0 mmol) at room temperature under Ar protection. After stirring overnight, the reaction mixture was poured into 2N aqueous NaOH. The mixture was extracted three times with EtOAc, and the combined organic layers were washed with brine and dried over Na2SO4. After evaporation, the residue was purified by CC (SiO2, hexane/EtOAc 8:1, then 4:1) to afford 1-(tert-butoxycarbonyl)-4-(2-phenoxyethyl)piperidine (220 mg, 72%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.27 (t, 2H, J=7.6 Hz), 6.95-6.88 (m, 3H), 4.10 (m, 2H), 3.99 (t, 2H, J=6.0 Hz), 2.70 (m, 2H), 1.72-1.63 (m, 5H), 1.47 (s, 9H), 1.23-1.15 (m, 2H). 13 C NMR (CDCl3, 100 MHz) δ 158.5, 154.4, 129.0, 120.2, 144.0, 78.8, 64.8, 43.5, 35.4, 32.6, 31.7, 28.1.

reactant | 1-(tert-butoxycarbonyl)-4-(2-iodoethyl)piperidine | 1.0 mmol, 339 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCI | C12H22INO2
reactant | phenol | 1.0 mmol, 188 mg | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 6.0 mmol, 828 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(tert-butoxycarbonyl)-4-(2-phenoxyethyl)piperidine | 220 mg, 72% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=CC=CC=C1 | C18H27NO3
